US06541505B1
N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(cyclopropylmethyl-amino)-pyrimidin-4-yl]-benzamide.
Using cyclopropylmethyl-amine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. 1H NMR (DMSO) δ 0.26 (m, 2H); 0.44 (m, 2H); 3.00 (bt, 2H, J=7 Hz); 3.25 (bs, 2H); 3.56 (m, 2H); 7.20 (m, 2H); 7.36 (bt, 1H); 7.50 (m, 2H); 7.94 (d, 2H, J=8 Hz); 8.29 (m, 3H); 8.38 (d, 1H, J=5 Hz); 8.69 (bt, 1H); 12.15 (bs, 1H). MS (ion spray) m/z 437 (M+H)+.

reactant | cyclopropylmethyl-amine | C1(CC1)CN | C4H9N
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(cyclopropylmethyl-amino)-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCC1CC1)=O | C26H24N6O
